*
* NGSPICE simulation script
* BJT amp with feedback
*


* input voltage source
Vin 1 0 0.0 ac 1.0 sin(0 230 50)


*resistor
Rs 1 0 1





*ENVELOPE


*fonte dependente
Ev 2 0 1 0 0.1

*DIODO
De1 2 3 Default

*RESISTOR
Re1 3 0 300k

*CONDENSADOR
Ce1 3 0 300u





*VOLTAGE REGULATOR

*resistor
Rr2 4 3 715k



*diodos
Dr1 4 5 Default

Dr2 5 6 Default

Dr3 6 7 Default

Dr4 7 8 Default

Dr5 8 9 Default

Dr6 9 10 Default

Dr7 10 11 Default

Dr8 11 12 Default

Dr9 12 13 Default

Dr10 13 14 Default

Dr11 14 15 Default

Dr12 15 16 Default

Dr13 16 17 Default

Dr14 17 18 Default

Dr15 18 19 Default

Dr16 19 20 Default

Dr17 20 21 Default

Dr18 21 22 Default

Dr19 22 23 Default

Dr20 23 24 Default

Dr21 24 25 Default

Dr22 25 0 Default

*Dr23 26 0 Default



.model Default D



.op
.measure tran 3avg AVG v(3) from=5.4 to=5.6
.measure tran yavg AVG v(4) from=5.4 to=5.6
.measure tran ypp PP v(4) from=5.4 to=5.6
.measure tran ymax MAX v(4) from=5.4 to=5.6
.measure tran ymin MIN v(4) from=5.4 to=5.6

.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"

*tran step t_final t_inicial
tran 1e-5 5.6 5.4


hardcopy envelope.ps v(3)
echo envelope_FIG
hardcopy regulator.ps v(4)
echo regulator_FIG
hardcopy deviation.ps (v(4)-12)
echo deviation_FIG
*echo trans_FIG

.endc
